US09029371B2
To a solution of 4-benzyl-2-(4-bromo-phenyl)-morpholine (1.89 g, 5.7 mmol) in THF (30 mL), at −78° C., was added dropwise n-butyl lithium (2.85 mL; 2.5 mol/l in hexanes; 7.1 mmol). The mixture was stirred for 20 min. at −78° C., and subsequently N-Methoxy-N-methyl-3-trifluoromethyl-benzamide (2.66 g, 11.4 mmol) was added. The mixture was allowed to warm to RT and stirred overnight. The resulting mixture was partitioned between an aqueous saturated NH4Cl solution and EtOAc. The layers were separated. The organic layer was washed with a saturated aqueous NaHCO3-solution, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (EtOAc:heptanes 1:3) to afford [4-(4-benzyl-morpholin-2-yl)-phenyl]-(3-trifluoromethyl-phenyl)-methanone (0.84 g), which was used as such in the next step.

reactant | 4-benzyl-2-(4-bromo-phenyl)-morpholine | 5.7 mmol, 1.89 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)Br | C17H18BrNO
reactant | n-butyl lithium | 7.1 mmol, 2.5 mol/l, 2.85 mL | C(CCC)[Li]
reactant | N-Methoxy-N-methyl-3-trifluoromethyl-benzamide | 11.4 mmol, 2.66 g | CON(C(C1=CC(=CC=C1)C(F)(F)F)=O)C | C10H10F3NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(3-trifluoromethyl-phenyl)-methanone | 0.84 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)C(=O)C1=CC(=CC=C1)C(F)(F)F | C25H22F3NO2
